US07781417B2
2-(tert-Butoxycarbonylamino)ethyl bis(2-azidoethyl)amine
A mixture of 2-(tert-butoxycarbonylamino)ethylamine (10 mg; 0.6 mmol), 2-azidoethyl p-toluenesulphonate (370 mg; 1.5 mmol; 1.25 equiv) and potassium carbonate (2.4 mmol, 2 equiv) is taken to reflux in nitromethane for 16 hours. The solution is then concentrated and the residual product dissolved in dichloromethane (10 ml), washed with water (5 ml) and purified by column chromatography (EtOAc-hexane 1:3) leading to the title product (130 mg, 70%).

reactant | 2-(tert-butoxycarbonylamino)ethylamine | 0.6 mmol, 10 mg | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | 2-azidoethyl p-toluenesulphonate | 1.5 mmol, 370 mg, 1.25 equiv | C1(=CC=C(C=C1)S(=O)(=O)OCCN=[N+]=[N-])C | C9H11N3O3S
reactant | potassium carbonate | 2.4 mmol, 2 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-(tert-Butoxycarbonylamino)ethyl bis(2-azidoethyl)amine | C(C)(C)(C)OC(=O)NCCN(CCN=[N+]=[N-])CCN=[N+]=[N-] | C11H22N8O2
